US04824848
7-(3-Chlorobenzyl)-2-isobutyryl-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 7-(3-chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (0.7 g, 2.0 mM) and isobutyric anhydride (1.0 ml, 6 mM) in pyridine (10 ml) was stirred at 80° C. for 5 hours. The solution was concentrated to dryness and the residue was triturated with water (10 ml). Recrystallization from chloroform/ether gave colorless needles (0.5 g, 59%), m.p. 154°-156° C.

reactant | 7-(3-chlorobenzyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.0 mM, 0.7 g | ClC=1C=C(CN2C(N(C(C3=C2NN=C3NC)=O)CCC)=O)C=CC1 | C16H18ClN5O2
reactant | isobutyric anhydride | 6 mM, 1.0 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-(3-Chlorobenzyl)-2-isobutyryl-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.5 g, 59% | ClC=1C=C(CN2C(N(C(C=3C2=NN(C3NC)C(C(C)C)=O)=O)CCC)=O)C=CC1 | C20H24ClN5O3
